*******************************
*Varistor PSpice Model Netlist*
*******************************
*
* © 	Harris Semiconductor
*	12th February 1999
*	version 3.1
*
* Representing typical characteristics for the following BA-Series varistors:
* V571BA60	 V661BA60
*
.SUBCKT MOV  1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
E_non_lin	3 1 	VALUE {(T)*(
+ 			a1+a2*(log10(limit(v(4),a7,1g))-3)
+			+a3/limit(v(4)*.001,a7/1e3,1g)
+			+a4*exp(-log10(limit(v(4),a7,1g))+3)
+ 			+a5*exp(log10(limit(v(4),a7,1g))-3)
+ 			-(a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+			-a3/limit(v(4)*.001,-1g,-a7/1e3)
+			+a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+ 			+a5*exp(log10(-limit(v(4),-1g,-a7))-3))
+ 			+limit(v(4)/a7*v(8),-v(8),v(8)))}
L_series	5 6  {L}  
H_H1		4 0  VH_H1 1k
VH_H1		5 7 0V
R_R2		0 4  1G  
R_series	6 2  {a6}  
V_V1		3 7  0V
E_x_zero	8 0 	VALUE {a1+a2*(log10(a7/1e3))+a3/(a7/1e3)
+			+a4*exp(-log10(a7/1e3))+a5*exp(log10(a7/1e3))}
R_x_zero	8 0  1G
C_parallel	1 5 {C}
.ENDS
*
.SUBCKT V571BA60 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=75nH C=4.5nF a1=1050.5 a2=52.58 a3=-1.056e-3 a4=0.8805 a5=11.65 a6=3.266e-3 a7=25e-3
.ENDS
*
.SUBCKT V661BA60 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=75nH C=4nF a1=1212.2 a2=60.67 a3=-1.219e-3 a4=1.016 a5=13.44 a6=3.768e-3 a7=25e-3
.ENDS
*
*******************************
*Varistor PSpice Model Netlist*
*******************************
*
* © 	Littelfuse Inc.
*	5th March 2002
*	version 4.0
*
* Representing typical characteristics for the following HA-Series varistors: 
*
* V131HA32	 V131HA40
* V151HA32	 V151HA40
* V251HA32	 V251HA40
* V271HA32	 V271HA40
* V321HA32	 V321HA40
* V421HA32	 V421HA40
* V481HA32	 V481HA40
* V511HA32	 V511HA40
* V571HA32	 V571HA40
* V661HA32	 V661HA40
* V751HA32	 V751HA40
*
.SUBCKT HAMOV  1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
E_non_lin	3 1 	VALUE {(T)*(
+ 			a1+a2*(log10(limit(v(4),a7,1g))-3)
+			+a3*2^(-log10(limit(v(4),a7,1g))+3)
+			+a4*exp(-log10(limit(v(4),a7,1g))+3)
+ 			+a5*exp(log10(limit(v(4),a7,1g))-3)
+ 			-(a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+			+a3*2^(-log10(-limit(v(4),-1g,-a7))+3)
+			+a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+ 			+a5*exp(log10(-limit(v(4),-1g,-a7))-3))
+ 			+limit(v(4)/a7*v(8),-v(8),v(8)))}
L_series	5 6  {L}  
H_H1		4 0  VH_H1 1k
VH_H1		5 7 0V
R_R2		0 4  1G  
R_series	6 2  {a6}  
V_V1		3 7  0V
E_x_zero	8 0 	VALUE {a1+a2*(log10(a7/1e3))+a3*2^(-log10(a7/1e3))
+			+a4*exp(-log10(a7/1e3))+a5*exp(log10(a7/1e3))}
R_x_zero	8 0  1G
C_parallel	1 5 {C}
.ENDS
*
.SUBCKT V131HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=4.7nF a1=252.2 a2=9.855 a3=-2.723 a4=0.1661 a5=3.837 a6=3.757E-3
.ENDS
*
.SUBCKT V151HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=4nF a1=302.6 a2=11.83 a3=-3.268 a4=0.1993 a5=4.604 a6=4.509E-3
.ENDS
*
.SUBCKT V251HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=2.5nF a1=491.8 a2=19.22 a3=-5.31 a4=0.3239 a5=7.481 a6=7.327E-3
.ENDS
*
.SUBCKT V271HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=2.2nF a1=542.2 a2=21.19 a3=-5.854 a4=0.3571 a5=8.249 a6=8.078E-3
.ENDS
*
.SUBCKT V321HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=1.9nF a1=643.1 a2=25.13 a3=-6.944 a4=0.4236 a5=9.783 a6=9.581E-3
.ENDS
*
.SUBCKT V421HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=1.5nF a1=857.4 a2=33.51 a3=-9.258 a4=0.5648 a5=13.04 a6=12.77E-3
.ENDS
*
.SUBCKT V481HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=1.3nF a1=945.7 a2=36.95 a3=-10.21 a4=0.6229 a5=14.39 a6=14.09E-3
.ENDS
*
.SUBCKT V511HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=1.2nF a1=1034 a2=40.4 a3=-11.16 a4=0.681 a5=15.73 a6=15.41E-3
.ENDS
*
.SUBCKT V571HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=1.1nF a1=1147 a2=44.84 a3=-12.39 a4=0.7558 a5=17.46 a6=17.1E-3
.ENDS
*
.SUBCKT V661HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=1nF a1=1324 a2=51.74 a3=-14.3 a4=0.8721 a5=20.14 a6=19.73E-3
.ENDS
*
.SUBCKT V751HA32 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=800pF a1=1513 a2=59.13 a3=-16.34 a4=0.9966 a5=23.02 a6=22.54E-3
.ENDS
*
.SUBCKT V131HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=10nF a1=250.3 a2=9.855 a3=-3.115 a4=0.2016 a5=3.161 a6=2.405E-3
.ENDS
*
.SUBCKT V151HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=8nF a1=300.3 a2=11.83 a3=-3.737 a4=0.242 a5=3.793 a6=2.886E-3
.ENDS
*
.SUBCKT V251HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=5nF a1=488 a2=19.22 a3=-6.073 a4=0.3932 a5=6.163 a6=4.689E-3
.ENDS
*
.SUBCKT V271HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=4.5nF a1=538.1 a2=21.19 a3=-6.696 a4=0.4335 a5=6.795 a6=5.17E-3
.ENDS
*
.SUBCKT V321HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=3.8nF a1=638.2 a2=25.13 a3=-7.942 a4=0.5142 a5=8.059 a6=6.132E-3
.ENDS
*
.SUBCKT V421HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=3nF a1=850.9 a2=33.51 a3=-10.59 a4=0.6855 a5=10.75 a6=8.176E-3
.ENDS
*
.SUBCKT V481HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=2.7nF a1=938.5 a2=36.95 a3=-11.68 a4=0.7561 a5=11.85 a6=9.018E-3
.ENDS
*
.SUBCKT V511HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=2.5nF a1=1026 a2=40.4 a3=-12.77 a4=0.8267 a5=12.96 a6=9.859E-3
.ENDS
*
.SUBCKT V571HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=2.2nF a1=1139 a2=44.84 a3=-14.17 a4=0.9174 a5=14.38 a6=10.94E-3
.ENDS
*
.SUBCKT V661HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=2nF a1=1314 a2=51.74 a3=-16.35 a4=1.059 a5=16.59 a6=12.62E-3
.ENDS
*
.SUBCKT V751HA40 1 2 PARAMS: TOL=0
X1	1 2	HAMOV PARAMS: T={1+TOL/100} L=20nH C=1.8nF a1=1502 a2=59.13 a3=-18.69 a4=1.21 a5=18.96 a6=14.43E-3
.ENDS
*

*******************************
*Varistor PSpice Model Netlist*
*******************************
*
* © 	Harris Suppression Products
*     a business unit of Littelfuse Inc.
*
*     December 3, 1999
*	version 4.2
*
* Representing typical characteristics for the following MLA-, MLE- and AUMLA-Series varistors: 
*
* V3.5MLA0603 V5.5MLA0603 V9MLA0603 V14MLA0603 
* V18MLA0603 V26MLA0603 V30MLA0603 
*
* V3.5MLA0805 V5.5MLA0805 V14MLA0805 V18MLA0805
* V26MLA0805 
*
* V3.5MLA0805L V5.5MLA0805L V9MLA0805L V12MLA0805L 
* V14MLA0805L V18MLA0805L V26MLA0805L V30MLA0805L
*
* V3.5MLA1206 V5.5MLA1206 V14MLA1206 V18MLA1206
* V26MLA1206 V33MLA1206 V42MLA1206 V56MLA1206
* V68MLA1206 
*
* V18MLA1210 V26MLA1210 V30MLA1210 V48MLA1210 
* V60MLA1210 V85MLA1210 V120MLA1210 
*
* V30MLA1210L V48MLA1210L
*
* V18AUMLA2220 V18AUMLA1812 V18AUMLA1210 V18AUMLA1206
*
* V18MLE0603 V18MLE0805 V18MLE0805L V18MLE1206
*
*
*
.SUBCKT MLMOV  1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
Enonln1	3 1	VALUE {(T)*(
+	10^(
+	+a1+a2*(log10(limit(v(4),a7,1g))-3)
+	+a3*2^(-log10(limit(v(4),a7,1g))+3)
+	+a4*exp(-log10(limit(v(4),a7,1g))+3)
+	+a5*exp(log10(limit(v(4),a7,1g))-3)
+	+a6*2^(log10(limit(v(4),a7,1g))-3)
+	)
+	-10^(
+	a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+	+a3*2^(-log10(-limit(v(4),-1g,-a7))+3)
+	+a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+	+a5*exp(log10(-limit(v(4),-1g,-a7))-3)
+	+a6*2^(log10(-limit(v(4),-1g,-a7))-3)
+	)
+	+limit(v(4)/a7*v(8),-v(8),v(8))
+	)}
L_series	5 6  {L}  
H_H1		4 0  VH_H1 1k
VH_H1		5 70 0V
R_R2		0 4  1G  
R_series	6 2  100u  
V_V1		3 70  0V
E_x_zero	8 0 	VALUE {10^(
+	a1+a2*(log10(a7/1e3))
+	+a3*2^(-log10(a7/1e3))
+	+a4*exp(-log10(a7/1e3))
+	+a5*exp(log10(a7/1e3))
+	+a6*2^(log10(a7/1e3))
+	)}
R_x_zero	8 0  1G
C_parallel	1 5 {C}
.ENDS
.SUBCKT V3pt5MLA0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.1nF a1=0.8328 a2=6.278E-2 a3=1.418E-2 a4=-2.047E-3 a5=1.778E-2 a6=9.065E-2
.ENDS
*
.SUBCKT V5pt5MLA0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=660pF a1=1.018 a2=6.278E-2 a3=1.418E-2 a4=-2.047E-3 a5=1.778E-2 a6=9.065E-2
.ENDS
*
.SUBCKT V9MLA0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=420pF a1=1.454 a2=0.1467 a3=0.02598 a4=-3.182E-3 a5=0.1367 a6=-0.2794
.ENDS
*
.SUBCKT V14MLA0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=150pF a1=1.582 a2=0.1467 a3=0.02598 a4=-3.182E-3 a5=0.1367 a6=-0.2794
.ENDS
*
.SUBCKT V18MLA0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=125pF a1=1.566 a2=0.0709 a3=9.496E-3 a4=-1.201E-3 a5=7.945E-2 a6=-8.674E-2
.ENDS
*
.SUBCKT V18MLE0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=125pF a1=1.566 a2=0.0709 a3=9.496E-3 a4=-1.201E-3 a5=7.945E-2 a6=-8.674E-2
.ENDS
*
.SUBCKT V18MLE0603L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=60pF a1=1.581 a2=0.07091 a3=8.142E-3 a4=-9.616E-4 a5=9.942E-2 a6=-0.1014
.ENDS
*
.SUBCKT V26MLA0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=90pF a1=1.706 a2=0.0709 a3=9.496E-3 a4=-1.201E-3 a5=7.945E-2 a6=-8.674E-2
.ENDS
*
.SUBCKT V30MLA0603 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=75pF a1=1.786 a2=0.0709 a3=9.496E-3 a4=-1.201E-3 a5=7.945E-2 a6=-8.674E-2
.ENDS
*
.SUBCKT V18MLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1250pF a1=1.579 a2=0.09722 a3=0.027833 a4=-4.832E-3 a5=0.06432 a6=-0.1449
.ENDS
*
.SUBCKT V26MLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1nF a1=1.651 a2=0.06252 a3=0.01648 a4=-2.811E-3 a5=0.04796 a6=-0.0742
.ENDS
*
.SUBCKT V30MLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.575nF a1=1.71 a2=0.06252 a3=0.01648 a4=-2.811E-3 a5=0.04796 a6=-0.0742
.ENDS
*
.SUBCKT V48MLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=450pF a1=1.706 a2=-0.0422 a3=-0.00955 a4=2.331E-4 a5=-.04556 a6=0.1886
.ENDS
*
.SUBCKT V60MLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=375pF a1=1.799 a2=-0.0422 a3=-0.00955 a4=2.331E-4 a5=-.04556 a6=0.1886
.ENDS
*
.SUBCKT V85MLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=225pF a1=1.945 a2=-0.0422 a3=-0.00955 a4=2.331E-4 a5=-.04556 a6=0.1886
.ENDS
*
.SUBCKT V120MLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=65pF a1=2.233 a2=0.02499 a3=0.00452 a4=-9.542E-4 a5=0.02925 a6=-0.00593
.ENDS
*
.SUBCKT V30MLA1210L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.53nF a1=1.71 a2=0.06252 a3=0.01648 a4=-2.811E-3 a5=0.04796 a6=-0.0742
.ENDS
*
.SUBCKT V48MLA1210L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=430pF a1=1.706 a2=-0.0422 a3=-0.00955 a4=2.331E-4 a5=-.04556 a6=0.1886
.ENDS
*
.SUBCKT V3pt5MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=6nF a1=0.907 a2=0.09247 a3=2.223E-2 a4=-3.342E-3 a5=0.06777 a6=-0.1232
.ENDS
*
.SUBCKT V5pt5MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=4.5nF a1=1.093 a2=0.09247 a3=2.223E-2 a4=-3.342E-3 a5=0.06777 a6=-0.1232
.ENDS
*
.SUBCKT V14MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.6nF a1=1.386 a2=0.05368 a3=7.598E-3 a4=-1.077E-3 a5=0.04129 a6=-0.06871
.ENDS
*
.SUBCKT V18MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.1nF a1=1.526 a2=0.05368 a3=7.598E-3 a4=-1.077E-3 a5=0.04129 a6=-0.06871
.ENDS
*
.SUBCKT V18MLE1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.1nF a1=1.526 a2=0.05368 a3=7.598E-3 a4=-1.077E-3 a5=0.04129 a6=-0.06871
.ENDS
*
.SUBCKT V26MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=900pF a1=1.655 a2=0.06112 a3=1.328E-2 a4=-1.995E-3 a5=0.04145 a6=-0.07086
.ENDS
*
.SUBCKT V33MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=550pF a1=1.762 a2=0.06112 a3=1.328E-2 a4=-1.995E-3 a5=0.04145 a6=-0.07086
.ENDS
*
.SUBCKT V42MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=550pF a1=1.848 a2=0.06112 a3=1.328E-2 a4=-1.995E-3 a5=0.04145 a6=-0.07086
.ENDS
*
.SUBCKT V56MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=150pF a1=1.908 a2=0.02679 a3=3.536E-3 a4=-7.262E-4 a5=0.04608 a6=-0.03745
.ENDS
*
.SUBCKT V68MLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=150pF a1=1.988 a2=0.02679 a3=3.536E-3 a4=-7.262E-4 a5=0.04608 a6=-0.03745
.ENDS
*
.SUBCKT V3pt5MLA0805 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=2.2nF a1=1.026 a2=0.1944 a3=4.071E-2 a4=-5.078E-3 a5=0.1594 a6=-0.3414
.ENDS
*
.SUBCKT V5pt5MLA0805 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.6nF a1=1.277 a2=0.1944 a3=4.071E-2 a4=-5.078E-3 a5=0.1594 a6=-0.3414
.ENDS
*
.SUBCKT V14MLA0805 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=480pF a1=1.359 a2=0.0465 a3=9.33E-3 a4=-1.827E-3 a5=0.02188 a6=-0.004146
.ENDS
*
.SUBCKT V18MLA0805 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=450pF a1=1.504 a2=0.0465 a3=9.33E-3 a4=-1.827E-3 a5=0.02188 a6=-0.004146
.ENDS
*
.SUBCKT V18MLE0805 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=450pF a1=1.504 a2=0.0465 a3=9.33E-3 a4=-1.827E-3 a5=0.02188 a6=-0.004146
.ENDS
*
.SUBCKT V26MLA0805 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=190pF a1=1.632 a2=0.0465 a3=9.33E-3 a4=-1.827E-3 a5=0.02188 a6=-0.004146
.ENDS
*
.SUBCKT V3pt5MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.2nF a1=0.865 a2=0.069 a3=1.21E-2 a4=-1.656E-3 a5=0.0249 a6=0.04338
.ENDS
*
.SUBCKT V5pt5MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=860pF a1=1.051 a2=0.069 a3=1.21E-2 a4=-1.656E-3 a5=0.0249 a6=0.04338
.ENDS
*
.SUBCKT V9MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=450pF a1=1.266 a2=0.0753 a3=1.053E-2 a4=-1.227E-3 a5=0.03887 a6=-0.03557
.ENDS
*
.SUBCKT V12MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=350pF a1=1.381 a2=0.0753 a3=1.053E-2 a4=-1.227E-3 a5=0.03887 a6=-0.03557
.ENDS
*
.SUBCKT V14MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=270pF a1=1.426 a2=0.0753 a3=1.053E-2 a4=-1.227E-3 a5=0.03887 a6=-0.03557
.ENDS
*
.SUBCKT V18MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=250pF a1=1.567 a2=0.0753 a3=1.053E-2 a4=-1.227E-3 a5=0.03887 a6=-0.03557
.ENDS
*
.SUBCKT V18MLE0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=250pF a1=1.567 a2=0.0753 a3=1.053E-2 a4=-1.227E-3 a5=0.03887 a6=-0.03557
.ENDS
*
.SUBCKT V26MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=115pF a1=1.7 a2=0.0753 a3=1.053E-2 a4=-1.227E-3 a5=0.03887 a6=-0.03557
.ENDS
*
.SUBCKT V30MLA0805L 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=80pF a1=1.787 a2=0.0753 a3=1.053E-2 a4=-1.227E-3 a5=0.03887 a6=-0.03557
.ENDS
*
.SUBCKT V18AUMLA2220 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=19nF a1=1.624 a2=0.0901 a3=1.336E-2 a4=-1.732E-3 a5=0.1175 a6=-0.2438
.ENDS
*
.SUBCKT V18AUMLA1812 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=1.2nF a1=1.523 a2=0.04106 a3=5.46E-3 a4=-1.088E-3 a5=0.0878 a6=-0.1104
.ENDS
*
.SUBCKT V18AUMLA1210 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=900pF a1=1.61 a2=0.08893 a3=1.552E-2 a4=-2.149E-3 a5=0.1169 a6=-0.22
.ENDS
*
.SUBCKT V18AUMLA1206 1 2 PARAMS: TOL=0
X1	1 2	MLMOV PARAMS: T={1+TOL/100} L=1nH C=200pF a1=1.483 a2=0.02273 a3=1.217E-3 a4=-2.461E-4 a5=-.0068 a6=0.08386
.ENDS
*
*******************************
*Varistor PSpice Model Netlist*
*******************************
*
* © 	Littelfuse Inc.
*	23rd February 2006
*	version 4.0
*
* Representing typical characteristics for the following TMOV34S-Series varistors: 
*
* TMOV34S111M
* TMOV34S131M
* TMOV34S151M
* TMOV34S181M
* TMOV34S201M
* TMOV34S251M
* TMOV34S271M
* TMOV34S301M
* TMOV34S321M
* TMOV34S331M
* TMOV34S351M
* TMOV34S391M
* TMOV34S421M
* TMOV34S461M
* TMOV34S481M
* TMOV34S511M
* TMOV34S551M
* TMOV34S571M
* TMOV34S621M
* TMOV34S661M
* TMOV34S681M
* TMOV34S751M
*
.SUBCKT TMOV34S  1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
E_non_lin	3 1 	VALUE {(T)*(
+ 			a1+a2*(log10(limit(v(4),a7,1g))-3)
+			+a3*2^(-log10(limit(v(4),a7,1g))+3)
+			+a4*exp(-log10(limit(v(4),a7,1g))+3)
+ 			+a5*exp(log10(limit(v(4),a7,1g))-3)
+ 			-(a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+			+a3*2^(-log10(-limit(v(4),-1g,-a7))+3)
+			+a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+ 			+a5*exp(log10(-limit(v(4),-1g,-a7))-3))
+ 			+limit(v(4)/a7*v(8),-v(8),v(8)))}
L_series	5 6  {L}  
H_H1		4 0  VH_H1 1k
VH_H1		5 7 0V
R_R2		0 4  1G  
R_series	6 2  {a6}  
V_V1		3 7  0V
E_x_zero	8 0 	VALUE {a1+a2*(log10(a7/1e3))+a3*2^(-log10(a7/1e3))
+			+a4*exp(-log10(a7/1e3))+a5*exp(log10(a7/1e3))}
R_x_zero	8 0  1G
C_parallel	1 5 {C}
.ENDS
*
.SUBCKT TMOV34S111M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=11.5nF a1=220.9 a2=14.01 a3=0.945 a4=-0.3259 a5=2.212 a6=3.223E-3
.ENDS
*
.SUBCKT TMOV34S131M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=10nF a1=245.5 a2=15.57 a3=1.05 a4=-0.3621 a5=2.458 a6=3.582E-3
.ENDS
*
.SUBCKT TMOV34S141M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=9nF a1=270 a2=17.12 a3=1.155 a4=-0.3983 a5=2.703 a6=3.94E-3
.ENDS
*
.SUBCKT TMOV34S151M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=8nF a1=294.5 a2=18.68 a3=1.26 a4=-0.4345 a5=2.949 a6=4.298E-3
.ENDS
*
.SUBCKT TMOV34S181M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=6.8nF a1=343.6 a2=21.79 a3=1.47 a4=-0.5069 a5=3.441 a6=5.014E-3
.ENDS
*
.SUBCKT TMOV34S201M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=6.5nF a1=392.7 a2=24.91 a3=1.68 a4=-0.5794 a5=3.932 a6=5.73E-3
.ENDS
*
.SUBCKT TMOV34S251M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=5nF a1=478.6 a2=30.36 a3=2.047 a4=-0.7061 a5=4.792 a6=6.984E-3
.ENDS
*
.SUBCKT TMOV34S271M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=4.5nF a1=527.7 a2=33.47 a3=2.257 a4=-0.7785 a5=5.284 a6=7.7E-3
.ENDS
*
.SUBCKT TMOV34S301M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=4.05nF a1=586.6 a2=37.21 a3=2.509 a4=-0.8654 a5=5.874 a6=8.56E-3
.ENDS
*
.SUBCKT TMOV34S321M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=3.8nF a1=625.9 a2=39.7 a3=2.677 a4=-0.9233 a5=6.267 a6=9.133E-3
.ENDS
*
.SUBCKT TMOV34S331M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=3.7nF a1=650.4 a2=41.25 a3=2.782 a4=-0.9596 a5=6.513 a6=9.491E-3
.ENDS
*
.SUBCKT TMOV34S351M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=3.5nF a1=687.3 a2=43.59 a3=2.94 a4=-1.014 a5=6.881 a6=10.03E-3
.ENDS
*
.SUBCKT TMOV34S391M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=3.3nF a1=760.9 a2=48.26 a3=3.255 a4=-1.123 a5=7.619 a6=11.1E-3
.ENDS
*
.SUBCKT TMOV34S421M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=3nF a1=834.5 a2=52.93 a3=3.57 a4=-1.231 a5=8.356 a6=12.18E-3
.ENDS
*
.SUBCKT TMOV34S461M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=2.8nF a1=871.4 a2=55.26 a3=3.727 a4=-1.1286 a5=8.724 a6=12.71E-3
.ENDS
*
.SUBCKT TMOV34S481M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=2.7nF a1=920.4 a2=58.38 a3=3.937 a4=-1.358 a5=9.216 a6=13.43E-3
.ENDS
*
.SUBCKT TMOV34S511M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=2.5nF a1=1006.4 a2=63.82 a3=4.304 a4=-1.485 a5=10.08 a6=14.68E-3
.ENDS
*
.SUBCKT TMOV34S551M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=2.25nF a1=1049.3 a2=66.55 a3=4.488 a4=-1.548 a5=10.51 a6=15.31E-3
.ENDS
*
.SUBCKT TMOV34S571M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=2.2nF a1=1116.8 a2=70.83 a3=4.777 a4=-1.648 a5=11.18 a6=16.3E-3
.ENDS
*
.SUBCKT TMOV34S621M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=2.1nF a1=1202.7 a2=76.28 a3=5.144 a4=-1.774 a5=12.04 a6=17.55E-3
.ENDS
*
.SUBCKT TMOV34S661M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=2nF a1=1288.6 a2=81.73 a3=5.512 a4=-1.901 a5=12.9 a6=18.8E-3
.ENDS
*
.SUBCKT TMOV34S681M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=1.97nF a1=1337.7 a2=84.84 a3=5.722 a4=-1.973 a5=13.39 a6=19.52E-3
.ENDS
*
.SUBCKT TMOV34S751M 1 2 PARAMS: TOL=0
X1	1 2	TMOV34S PARAMS: T={1+TOL/100} L=20nH C=1.8nF a1=1472.7 a2=93.4 a3=6.299 a4=-2.173 a5=14.75 a6=21.49E-3
.ENDS
*
